US06500866B1
3-(1-Adamantyl)-2-phenylpropenenitrile
A solution of diethyl 1-cyano-1-phenylmethylphosphonate (10.97 g, 43.3 mmol) in dry THF (60 mL) at 0° C. was treated with NaH (60% dispersion in oil, 1.7 g, 43.3 mmol), stirred at 0° C. for 40 min, warmed to room temperature for 20 min, treated with a solution of 1-adamantanecarboxaldehyde (3.56 g, 21.7 mmol) in dry THF (10 mL) and heated at 60° C. for 16 h. The reaction mixture was cooled, treated with water (50 mL), extracted with EtOAc (3×20 mL), the extracts washed with brine (40 mL), dried (MgSO4) and concentrated in vacuo. The resulting brown oil was purified by chromatography [SiO2, heptane-EtOAc (9:1)] and recrystallised (heptane) to give the product (1.62 g, 28%) as a white solid: mp 107-108° C; IR νmax (Nujol)/cm−1 2924, 2852, 2218, 1497, 1448, 1377, 1343, 1101, 910, 762, 750 and 689; NMR δH (400 MHz, CDCl3) 1.76 (6H, m), 1.99 (6H, m), 2.07 (3H, m), 6.50 (1H, s), 7.37 (3H, m) and 7.51 (2H, m); Anal. Calcd for C19H21N: C, 86.65; H, 8.04; N, 5.32. Found: C, 86.58; H, 8.09; N, 5.33.

reactant | diethyl 1-cyano-1-phenylmethylphosphonate | 43.3 mmol, 10.97 g | C(#N)C(C1=CC=CC=C1)P(OCC)(OCC)=O | C12H16NO3P
reactant | NaH | 43.3 mmol, 1.7 g | [H-].[Na+]
reactant | 1-adamantanecarboxaldehyde | 21.7 mmol, 3.56 g | C12(CC3CC(CC(C1)C3)C2)C=O | C11H16O
reactant | water | 50 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1-Adamantyl)-2-phenylpropenenitrile | 1.62 g, 28% | C12(CC3CC(CC(C1)C3)C2)C=C(C#N)C2=CC=CC=C2 | C19H21N
